US04141899
A solution of 2 g of 4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine hydrochloride and 2.5 g of isopropyl isothiocyanate in 20 ml of acetonitrile and 5 ml of ethanol is refluxed 8 h. Evaporation of the solvent leaves a residue that is treated with one equivalent of ethanolic hydrogen chloride. Evaporation of the solvent leaves a residue which is crystallized from acetone to give 2.5 g of 5-(N-isopropyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine hydrochloride, m.p. 170°.

reactant | 4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine hydrochloride | 2 g | Cl.N1C=NC=2CNCCC21
reactant | isopropyl isothiocyanate | 2.5 g | C(C)(C)N=C=S | C4H7NS
reactant | hydrogen chloride | one equivalent | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 5-(N-isopropyl-thiocarbamoyl)-4,5,6,7-tetrahydro-imidazo-[4,5-c]-pyridine hydrochloride | 2.5 g | Cl.C(C)(C)NC(=S)N1CC2=C(CC1)NC=N2 | InChI=1S/C10H16N4S.ClH/c1-7(2)13-10(15)14-4-3-8-9(5-14)12-6-11-8;/h6-7H,3-5H2,1-2H3,(H,11,12)(H,13,15);1H
